US05155123
Preparation of 1-benzyl-2-(cyanoimino)pyridine
5.3 g (20 mmole) of 2-amino-1-benzylpyridinium bromide [prepared according to Chem. Ber. 88, 1103 (1955)] are suspended in 20 ml of ether, then 20 ml of aqueous sodium hydroxide solution of 0.5 mole/liter concentration are added while stirring. After the dissolution of the solid phase the phases are separated and the aqueous phase is extracted with 20 ml of ether. The combined organic phase is dried over anhydrous sodium sulfate and evaporated to its half volume under reduced pressure. Then, a solution containing 1.1 g (10 mmole) of cyanogen bromide in 5 ml of ether is dropped to the ethereal solution at room temperature under stirring. After stirring for 30 minutes the crystalline precipitate is filtered, washed with ether and then with a great volume of water, then the product is dried in air to yield 0.91 g (44%) of the named product, m.p.: 139°-140° C. (after recrystallization from ethanol the melting point raises to 147°-148° C.). On the basis of its melting point, infrared spectrum and thin layer chromatography (TLC) characteristics, this product proved to be indentical to the target compound of Example 2.

reactant | 2-amino-1-benzylpyridinium bromide | 20 mmole, 5.3 g | [Br-].NC1=[N+](C=CC=C1)CC1=CC=CC=C1
reactant | cyanogen bromide | 10 mmole, 1.1 g | N#CBr | CBrN
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 1-benzyl-2-(cyanoimino)pyridine | 0.91 g, 44% | C(C1=CC=CC=C1)N1C(C=CC=C1)=NC#N | C13H11N3
